US07696231B2
c) Preparation of benzyl (2S)-2-(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenoxy)-3-phenylpropanoate
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid in the presence of 5% TFA was added tert-butyl 2-{4-[(1S)-1-benzyl-2-(benzyloxy)-2-oxoethoxy]benzoyl}hydrazinecarboxylate. After stirring at 100° C., the reaction mixture was cooled to rt and a yellow solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. for 15 hrs gave 164 mg of the title compound (76%) as a yellow solid in 98.8% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 2-{4-[(1S)-1-benzyl-2-(benzyloxy)-2-oxoethoxy]benzoyl}hydrazinecarboxylate | C(C1=CC=CC=C1)[C@@H](C(=O)OCC1=CC=CC=C1)OC1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1 | C28H30N2O6
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | benzyl (2S)-2-(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenoxy)-3-phenylpropanoate | 164 mg, 76% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(O[C@H](C(=O)OCC2=CC=CC=C2)CC2=CC=CC=C2)C=C1 | C31H24IN3O5
